US08633173B2
8-Pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (1.0 g, 4.7 mmol) and 3-pyridylboronic acid (0.81 g, 6.6 mmol) in a manner analogous to Step 2c. The product of the reaction was isolated as a white solid (0.92 g, 93%). MP=185-187° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.28 (d, J=2.1 Hz, 1H), 8.62-8.58 (m, 2H), 8.49 (ddd, J=8.1, 1.8, 1.8 Hz, 1H), 7.82 (dd, J=7.4, 0.7 Hz, 1H), 7.53 (dd, J=8.0, 4.7 Hz, 1H), 7.01 (t, J=7.0 Hz, 1H), 6.18 (br s, 2H). MS=212 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 4.7 mmol, 1.0 g | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | 3-pyridylboronic acid | 6.6 mmol, 0.81 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 8-Pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | N1=CC(=CC=C1)C=1C=2N(C=CC1)N=C(N2)N | C11H9N5
